US07612114B2
6-Methoxy-2-(4-methoxy-2-nitrophenyl)-1H-indole
A mixture of 1-benzenesulfonyl-6-methoxy-2-(4-methoxy-2-nitrophenyl)-1H-indole (2.0 g), tetrabutylammonium fluoride (1.0 M solution in tetrahydrofuran) (11.4 ml) and tetrahydrofuran (40 ml) was stirred for 5 hours at 80° C. The reaction mixture was diluted with water, extracted with ethyl acetate, then washed with brine, dried over anhydrous magnesium sulfate, and the solvent was evaporated in vacuo. The residue was purified by NH silica gel column chromatography (hexane-ethyl acetate system) to provide the title compound (1.0 g).

reactant | 1-benzenesulfonyl-6-methoxy-2-(4-methoxy-2-nitrophenyl)-1H-indole | 2.0 g | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC2=CC=C(C=C12)OC)C1=C(C=C(C=C1)OC)[N+](=O)[O-] | C22H18N2O6S
reactant | tetrabutylammonium fluoride | 1.0 M, 11.4 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 6-Methoxy-2-(4-methoxy-2-nitrophenyl)-1H-indole | 1.0 g | COC1=CC=C2C=C(NC2=C1)C1=C(C=C(C=C1)OC)[N+](=O)[O-] | C16H14N2O4
